Circuito T1
*
* NGSPICE simulation script
* Linear Circuit Analysis
*

*Indepedent Voltage Source
Va 1 0 5.22552047598

*Independent Current Source
Id 8 5 1.04791133328m

*Resistors
R1 1 2 1.03504497262k
R2 3 2 2.01159104669k 
R3 2 4 3.03557466091k
R4 4 0 4.10235086526k
R5 4 5 3.09889833746k
R6 0 6 2.00952426524k
R7 7 8 1.04158528578k

*Dummy 0V-Voltage Source to Measure Current through R6 (Ic)
Vx 6 7 0.0

*Current Controlled Voltage Source
Hc 4 8 Vx 8.09359354837k

*Voltage Controlled Current Source
Gb 5 3 (2,4) 7.3172497028m


.model linearcircuit NPN
.control
op
echo "op_TAB"
print all
echo "op_END"
quit
.endc

.end
